US08030497B2
5-Benzyl-4-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole
6 μl (0.122 mmol) bromine are added to a solution of 48 mg (0.116 mmol) 5-benzyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole in 6 ml glacial acetic acid. The reaction mixture is stirred at room temperature for 10 min. 25 ml EtOAc are added and this solution is washed 4N NaOH (2×), water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is recrystallized from dichloromethane/diethyl ether/hexane to afford 40 mg of the title compound as colorless crystals.

reactant | bromine | 0.122 mmol, 6 μl | BrBr | Br2
reactant | 5-benzyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 0.116 mmol, 48 mg | C(C1=CC=CC=C1)C1=CC2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC | C27H30N2O2
reactant | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 5-Benzyl-4-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 40 mg | C(C1=CC=CC=C1)C1=C(C2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC)Br | C27H29BrN2O2
